US06541503B2
N-Methyl-4-[N′-(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidene)-hydrazino]benzenesulfonamide (Z-isomer)
6H-1-Thia-3,6-diaza-as-indacene-7,8-ione was prepared from 6-aminobenzothiazole according to Procedure A: 1H NMR (DMSO-d6): δ 7.10 (d, J=8.4 Hz, 1H), 8.31 (d, J=8.5 Hz, 1H), 9.35 (s, 1H), 11.19 (s, 1H); ESI−MS m/z 204 (M)−. The title compound was prepared from 6H-1-thia-3,6-diaza-as-indacene-7,8-dione and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G: mp>260° C.; 1H NMR (DMSO-d6): δ 2.39 (d, J=5.1 Hz, 3H), 7.12 (d, J=8.4 Hz, 1H), 7.32 (q, J=5.1 Hz, 1H), 7.63 (d, J=8.8 Hz, 2H), 7.76 (d, J=8.7 Hz, 2H), 7.99 (d, J=8.6 Hz, 1H), 9.30 (s, 1H), 11.26 (s, 1H), 12.69 (s, 1H); APCI−MS m/z 387 (M)−. Anal. Calcd for C16H13N5O3S2.0.33 H2O: C, 48.85; H, 3.50; N, 17.80; S, 16.30. Found: C, 48.89; H, 3.40; N, 17.67; S, 16.23.

reactant | 6-aminobenzothiazole | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | 6H-1-thia-3,6-diaza-as-indacene-7,8-dione | S1C=NC2=CC=C3NC(C(C3=C12)=O)=O | C9H4N2O2S
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
solvent | H2O | O | H2O
product | N-Methyl-4-[N′-(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidene)-hydrazino]benzenesulfonamide | CNS(=O)(=O)C1=CC=C(C=C1)NN=C1C(NC2=CC=C3N=CSC3=C12)=O | C16H13N5O3S2
